US05702776
60 ml of dried diethyl ether and 5.34 g of zirconocene dichlol were mixed together at a temperature of -20° C. in an argon atmosphere, and then 1.5M of methyl lithium was added little by little to the resultant solution over 70 minutes with stirring. After further stirring the mixture for 30 minutes at a temperature of 0° C., the diethyl ether was removed thereby obtaining a white solid which was then sublimated to obtain zirconocene dimethyl.

reactant | zirconocene | 5.34 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2]
reactant | methyl lithium | 1.5M | C[Li]
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | zirconocene dimethyl | [CH3-].[CH3-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+4] | InChI=1S/2C5H5.2CH3.Zr/c2*1-2-4-5-3-1;;;/h2*1-5H;2*1H3;/q4*-1;+4
